US04108997
3,4-Dimethoxybenzonitrile
3,4-Dimethoxy-benzaldehyde (287 g, 1.73 moles) in ethanol (1 liter) is treated with a solution of hydroxylamine hydrochloride (147 g, 2.12 moles) in water (200 ml) followed by addition of 17N sodium hydroxide (150 ml). The reaction mixture is stirred overnight at room temperature, poured on ice, and solid carbon dioxide is added until the solution is neutral. Extraction with methylene chloride followed by drying and evaporation of the extracts gives an orange oil. Distilled acetic anhydride (410 g, 4.0 moles) is added dropwise to the oil. When the addition is complete, the mixture is heated at reflux for 0.5 hour, poured into water and stirred for 0.5 hour. The reaction mixture is extracted with diethyl ether and the organic extract is dried and evaporated to give an orange oil. The oil is distilled at 135°-140° C/0.5 mm and dissolved in methylene chloride. The solution is washed with 2N sodium hydroxide, dried and evaporated to give the title compound; nmr (CDCl3) δ 3.94 (s, 6H) and 7.2 (m, 3H). EXAMPLE 2

reactant | 3,4-Dimethoxy-benzaldehyde | 1.73 moles, 287 g | COC=1C=C(C=O)C=CC1OC | C9H10O3
reactant | hydroxylamine hydrochloride | 2.12 moles, 147 g | Cl.NO
reactant | sodium hydroxide | 17N, 150 ml | [OH-].[Na+]
reactant | carbon dioxide | C(=O)=O | CO2
reactant | acetic anhydride | 4.0 moles, 410 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethanol | 1 liter | C(C)O | C2H6O
solvent | water | 200 ml | O | H2O
product | 3,4-Dimethoxybenzonitrile | COC=1C=C(C#N)C=CC1OC | C9H9NO2
